US05498751
A mixture of 1,3 -butanediol (359.7 parts ) , methyl acrylate (516.7 parts), dimethyltin dichloride (6.1 parts), sodium methoxide (1.6 parts, molar ratio 1.07:1), 4-methoxyphenol (2.7 parts) and hydroquinone (0.6 parts) was heated as in Example 1 to form and remove the methyl acrylate/methanol azeotrope (bp 62.5° C.) at varying reflux ratios. The reaction was continued until a conversion in excess of 99.0 percent was obtained. After work up as in Example 1, there was formed 1,072.8 parts (90.2 percent yield, based on 1,3-butanediol) of 1,3-butanediol diacrylate, with a purity of 99.9 percent, containing no detectable tin.

reactant | 1,3 -butanediol | C(CC(C)O)O | C4H10O2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | dimethyltin dichloride | C[Sn](C)(Cl)Cl
reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1,3-butanediol diacrylate | 90.2 percent yield | C(C=C)(=O)OCCC(C)OC(C=C)=O | C10H14O4
